US07754679B2
34.5 g of proline was suspended in a solution of 35 g of concentrated sulfuric acid, 40 mL water, 120 mL of butanol, and 200 mL of toluene in a 500 mL round bottom flask equipped with a condenser and a Dean-Stark apparatus. The resulting solution was heated at reflux temperature until no more water could be distilled. The resulting solution was then cooled to room temperature, washed with saturated aqueous sodium bicarbonate to neutralize acidic impurities, washed with saturated Brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the resulting liquid distilled to provide proline butanoate as a colorless liquid.

reactant | proline | 34.5 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sulfuric acid | 35 g | S(O)(O)(=O)=O | H2O4S
reactant | butanol | 120 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
product | proline butanoate | C(CCC)(=O)O.N1[C@H](C(=O)O)CCC1 | InChI=1S/C5H9NO2.C4H8O2/c7-5(8)4-2-1-3-6-4;1-2-3-4(5)6/h4,6H,1-3H2,(H,7,8);2-3H2,1H3,(H,5,6)/t4-;/m0./s1
